US04956359
3-(3-Methylphenoxy)-N-(2-propenyl)-1-azetidinecarboxamide
A stirred solution of 3.92 g (0.01 mole) of crude (57.59%) 3-(3-methylphenoxy)-1-azetidinecarbonyl chloride in 15 ml of tetrahydrofuran was treated with 2.25 g (0.03 mole) of 2-propenylamine. After stirring for 18 hr, the reaction mixture was diluted with 200 ml of water and a reddish oil separated. A sample of this oil crystallized at -70° C. and was used to seed the oil residue. The resulting solid was collected by filtration to yield 3.6 g which was recrystallized from benzene-ligroin yielding, after charcoal treatment, 1.53 g (62.2%) of pale beige crystals, m.p. 95°-96° C.

reactant | 3-(3-methylphenoxy)-1-azetidinecarbonyl chloride | CC=1C=C(OC2CN(C2)C(=O)Cl)C=CC1 | C11H12ClNO2
reactant | 2-propenylamine | 0.03 mole, 2.25 g | C(C=C)N | C3H7N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 3-(3-Methylphenoxy)-N-(2-propenyl)-1-azetidinecarboxamide | CC=1C=C(OC2CN(C2)C(=O)NCC=C)C=CC1 | C14H18N2O2
